US09388173B2
To a solution of N1-benzyl-5-bromobenzene-1,2-diamine (450 mg, 1.63 mmol) in HC(OMe)3 (15 mL) was added TsOH.H2O (30 mg, 0.16 mmol). The mixture was stirred at 100° C. for 4 h. The reaction solution was concentrated, and the residue was washed with water and extracted with EtOAc. The organic layer was concentrated to give the crude 1-benzyl-6-bromo-1H-benzo[d]imidazole. The crude product was used in next step without further purification. LCMS (m/z): 287.1/288.1 [M+H]+/[M+2H]+

reactant | N1-benzyl-5-bromobenzene-1,2-diamine | 1.63 mmol, 450 mg | C(C1=CC=CC=C1)NC=1C(=CC=C(C1)Br)N | C13H13BrN2
reactant | TsOH.H2O | 0.16 mmol, 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | HC(OMe)3 | 15 mL | C(OC)(OC)OC | C4H10O3
product | 1-benzyl-6-bromo-1H-benzo[d]imidazole | C(C1=CC=CC=C1)N1C=NC2=C1C=C(C=C2)Br | C14H11BrN2
